US06528510B1
Toluene-4-thiosulfonic acid S-(4,5-bis-tert-butoxycarbonylamino-2-tert-butyl-phenyl) ester
The title compound was prepared according to the General Method 15 using (2-tert-butoxycarbonylamino-4-tert-butyl-5-mercapto-phenyl)-carbamic acid tert-butyl ester (prepared in Example TT-2; 16.9 g, 42.8 mmol), tosyl bromide (10.04 g, 42.76 mmol), pyridine (10 mL), and EtOAc (150 mL). The crude product was purified by flash chromatography (5%-60% EtOAc in hexanes as eluents). 1 H-NMR (CDCl3): δ1.19 (s, 9 H), 1.53 (s, 18 H), 2.42 (s, 3 H), 6.42 (br s, 1 H), 7.22 (d, 2 H), 7.28 (s, 1 H), 7.5 (m, 3 H), 7.87 (br s, 1 H).

reactant | (2-tert-butoxycarbonylamino-4-tert-butyl-5-mercapto-phenyl)-carbamic acid tert-butyl ester | 42.8 mmol, 16.9 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)S)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C20H32N2O4S
reactant | tosyl bromide | 42.76 mmol, 10.04 g | S(=O)(=O)(C1=CC=C(C)C=C1)Br | C7H7BrO2S
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | Toluene-4-thiosulfonic acid S-(4,5-bis-tert-butoxycarbonylamino-2-tert-butyl-phenyl) ester | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1NC(=O)OC(C)(C)C)SS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C27H38N2O6S2
